US09227944B2
Trans-4-[4-(2-methyloxyphenyl)piperazinyl]-2-buten-1-yl-amine: according to the method of Example 5, N-(trans-4-chloro-2-buten-1-yl)phthalimide was reacted with 1-(2-methyloxyphenyl)piperazine to obtain N-{4-[4-(2-methyloxy-phenyl)piperazinyl]-trans-2-buten-1-yl}phthalimide, which was then reacted with hydrazine hydrate. Yield: 85.6%, hydrochloride mp: 178-180° C.

reactant | Trans-4-[4-(2-methyloxyphenyl)piperazinyl]-2-buten-1-yl-amine | COC1=C(C=CC=C1)N1CCN(CC1)C/C=C/CN | C15H23N3O
reactant | N-(trans-4-chloro-2-buten-1-yl)phthalimide | ClC/C=C/CN1C(C=2C(C1=O)=CC=CC2)=O | C12H10ClNO2
reactant | 1-(2-methyloxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | N-{4-[4-(2-methyloxy-phenyl)piperazinyl]-trans-2-buten-1-yl}phthalimide | Yield: 85.6% | COC1=C(C=CC=C1)N1CCN(CC1)C/C=C/CN1C(C=2C(C1=O)=CC=CC2)=O | C23H25N3O3
